US06121285
5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3-(R)-fluoro-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid hydrochloride
1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(R)-fluoropyrrolidine (757.8 mg, 2.002 mmol) was dissolved in methanol (80 ml), and the solution was mixed with a 5% palladium-carbon catalyst (water content, 55.6%; 800 mg) and stirred for 7 hours under a pressured hydrogen atomosphere (4.5 kg/cm2). The catalyst was removed by celite filtration (methanol washing), and the filtrate was concentrated under reduced pressure. The thus obtained residue was dissolved in dimethyl sulfoxide (8 ml), and the solution was mixed with 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (404.7 mg, 1.296 mmol) and triethylamine (3 ml) and stirred for 4 days in an oil bath of 120° C. under a nitrogen atmosphere. After cooling, dimethyl sulfoxide was evaporated under reduced pressure, the thus obtained residue was dissolved in chloroform (150 ml) and washed with 10% citric acid aqueous solution (100 ml×2) and saturated brine (100 ml) in that order and then the organic layer was dried over anhydrous magnesium sulfate. After filtration, the filtrate was concentrated under reduced pressure. To the thus obtained residue, which was cooled in an ice bath, was added dropwise concentrated hydrochloric acid (10 ml), followed by stirring at room temperature for 15 minutes. After adding water (10 ml) to the reaction solution, the aqueous solution was washed with dichloromethane (30 ml×4), adjusted to pH 7.4 with sodium hydroxide aqueous solution and then extracted with chloroform (100 ml×4). The organic layers were combined, dried over anhydrous magnesium sulfate and then filtered, and the filtrate was concentrated under reduced pressure. The thus obtained residue was subjected to preparative silica gel thin layer chromatography (development with the bottom layer of a mixed solvent of chloroform:methanol:water=7:3:1), and then the thus obtained crude product was dissolved in ethanol (20 ml). 1 N hydrochloric acid (1.5 ml) was added dropwise thereto under ice-cooling, and the resulting reaction solution was stirred for 5 minutes at the same temperature and then concentrated under reduced pressure (ethanol azeotropic treatment was conducted three times). Thereafter, the resulting residue was purified by recrystallization from ethanol-diisopropyl ether and then dried under reduced pressure to obtain 141.8 mg (22.3%) of the title compound as a yellow powder.

reactant | 1-Benzyloxycarbonyl-4-(R)-(1-tert-butoxycarbonylaminocyclopropyl)-3-(R)-fluoropyrrolidine | 2.002 mmol, 757.8 mg | C(C1=CC=CC=C1)OC(=O)N1C[C@@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)F | C20H27FN2O4
reactant | 5-amino-6,7-difluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 1.296 mmol, 404.7 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O3
reactant | triethylamine | 3 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 1 N, 1.5 ml | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
catalyst | palladium-carbon | 800 mg | [C].[Pd]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-Amino-7-[4-(R)-(1-aminocyclopropyl)-3-(R)-fluoro-1-pyrrolidinyl]-6-fluoro-1-[2-(S)-fluoro-1-(R)-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid hydrochloride | 141.8 mg, 22.3% | Cl.NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@@H]([C@H](C1)C1(CC1)N)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | InChI=1S/C21H23F3N4O3.ClH/c1-8-17-14(19(29)9(20(30)31)5-28(17)13-4-11(13)22)16(25)15(24)18(8)27-6-10(12(23)7-27)21(26)2-3-21;/h5,10-13H,2-4,6-7,25-26H2,1H3,(H,30,31);1H/t10-,11-,12-,13+;/m0./s1
